Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pravastatin / simvastatin / Livalo / mirtazapine / nicotine
 
Attending: ___.
 
Chief Complaint:
abdominal pain, N/V post ERCP
 
Major Surgical or Invasive Procedure:
ERCP ___
 
History of Present Illness:
Ms. ___ is a ___ lady with childs ___ class C 
cirrhosis from alcohol and a complicated biliary stricture 
history who is being admitted post-ERCP for monitoring.

She's undergone multiple ERCPs. Dark urine and light stools in 
___ prompted MRCP showing CBD dilation. Her first ERCP that 
month showed distal CBD and PD strictures concerning for 
malignancy though brushings only showed atypical cells. An EUS 
the following month showed thickening PD wall, again raising the 
concern for malignancy though ampulla biopsy showed metaplasia 
and chronic inflammation. A second ERCP in ___ showed again 
ampullary stricture and some stones that were swept, and she 
underwent sphinchterotomy. Brushings from the stricture as well 
as biopsies were sent, with path revealing atypical ductal 
cells. She had a post-sphinchterotomy bleed. Another ERCP 
several days later was done to control bleeding with epinephrine 
injection and stent placement, though she also required ___ 
embolization. A fourth ERCP was in ___ at which time the 
metal stent was removed and a cholangiogram showed no filling 
defects. Brushings and cytology again showed reactive changes, 
no malignancy.

She has continued to experience post prandial epigastric 
discomfort and nausea. Another ERCP was done today due to 
lingering concern for malignancy given ongoing elevation of CA 
___ and mild AP elevation compared to prior values. It showed 
moderate diffuse CBD dilation measuring 12mm, though was 
otherwise normal. The ampulla was biopsied.

Seen on the floor she is in considerable pain and is frustrated. 
Her husband is by her side. She has ___ epigastric pain which 
is similar to the pain that prompted the ERCP but intensified 
considerably post-procedure. She required several doses of IV 
dilaudid in the post-procedure holding area, and achieved some 
relief with a 1mg dose. She has considerable nausea, and felt 
that IV Zofran did not help. She does not wish to answer 
questions currently, but denies fevers, chills, headache, 
diarrhea. She has some mild ___ edema for which she usually takes 
bumex. She has never had pulmonary edema.

ROS: otherwise negative.

 
Past Medical History:
EtOH cirrhosis; per patient no varices on EGD
-- Followed by GI at ___: Dr. ___ s/p stent placement in ___
-- followed by Cardiology: Dr. ___ at ___
Thyroid nodule
Urinary incontinence
Migraine
Biliary obstruction with recurrent CBD dilation, distal 
stricture  with multiple ERCPs for brushings/biopsies never 
showing malignancy

 
Social History:
___
Family History:
No history of malignancy in 1st degree family relatives

 
Physical Exam:
PHYSICAL EXAM:
T98 HR95 BP190/83 RR18
GENERAL: appears uncomfortable
HEENT: MMM, OP clear
CARDIAC: RRR no MRG
PULMONARY: CTAB no RRW
ABDOMEN: normal bowel sounds. She has considerable pain on palp 
of the epigastrium, less so in the RUQ. No rebound or guarding 
appreciated. 
EXT: trace distal ankle/pedal edam
NEURO: awake, alert, answering all questions appropriately.
 
Pertinent Results:
ADMISSION LABS:
___ 02:33PM   UREA N-12 CREAT-0.4 SODIUM-135 POTASSIUM-5.4* 
CHLORIDE-103 TOTAL CO2-24 ANION GAP-13
___ 02:33PM   estGFR-Using this
___ 02:33PM   ALT(SGPT)-32 AST(SGOT)-96* ALK PHOS-113* TOT 
BILI-8.4*
___ 02:33PM   LIPASE-52
___ 02:33PM   WBC-4.1 RBC-3.08* HGB-10.9* HCT-32.1* 
MCV-104* MCH-35.4* MCHC-34.0 RDW-13.6 RDWSD-50.9*
___ 02:33PM   NEUTS-39.7 ___ MONOS-12.2 EOS-1.2 
BASOS-0.7 IM ___ AbsNeut-1.63 AbsLymp-1.87 AbsMono-0.50 
AbsEos-0.05 AbsBaso-0.03
___ 02:33PM   PLT COUNT-65*
___ 02:33PM   ___ PTT-43.3* ___

IMAGING:
-ERCP (___): A moderate diffuse dilation was seen at the main 
duct with the CBD measuring 12 mm.  Procedures: Cold forceps 
biopsies were performed for histology at the major papilla. 
Impression: Biliary dilation (biopsy) Otherwise normal ercp to 
third part of the duodenum 
-CXR (___): IMPRESSION: In comparison with the study of ___, there is again moderate enlargement of the cardiac 
silhouette without evidence of vascular congestion. This 
discordance raises the possibility of cardiomyopathy.  No 
evidence of acute focal pneumonia or pleural effusion. 
-CXR (___): IMPRESSION: 1. No substantial change compared to 
the prior examination. 2. Enlargement of the pulmonary arteries, 
heart, and the azygos vein is consistent with pulmonary arterial 
hypertension. 3. No evidence of pneumonia or pulmonary edema. 
-CT A/P (___): IMPRESSION: 1. No evidence of hydronephrosis. 
 No findings to suggest pancreatitis. 2. Extrahepatic biliary 
dilatation, with CBD measuring up to 1.5 cm.  Poorly defined 
area of hyperdensity within the mid to distal aspect of the CBD 
could represent a stone.  If there is clinical concern for 
choledocholithiasis or CBD obstruction, further evaluation with 
MRCP is recommended. 3. Bilateral small nonhemorrhagic pleural 
effusions, right greater than left. Moderate bibasilar 
atelectasis. 4. Cholelithiasis without evidence of 
cholecystitis. 
-TTE (___): IMPRESSION: Moderately dilated and hypokinetic 
right ventricle with moderate to severe tricuspid regurgitation 
and severe pulmonary hypertension. Mild symmetric left 
ventricular hypertrophy with hyperdynamic systolic function.  
-CXR (___): IMPRESSION: Compared to prior chest radiographs, 
most recently ___ at 23:37. Pulmonary vasculature is more 
engorged.  New peripheral opacity at the base of the right lung 
could be atelectasis and pleural effusion, but the configuration 
raises concern for infarction due to acute pulmonary embolus.  
No pneumothorax.  Cardiomegaly is moderate and the contour of 
the main pulmonary artery raises possibility of pulmonary 
arterial hypertension. 
-RUQ U/S (___):   IMPRESSION: 1. Cirrhosis with trace 
ascites. 
2. Reversed portal vein flow. Patent hepatic arteries and veins. 

3. Cholelithiasis. Unchanged common bile duct dilation. No 
choledocholithiasis. 
-CTA Chest (___): PRELMIM no PE

MICRO:
-Blood cx pending
-Urine cx pending 

PATH:
-Ampullary biopsy: 

 
Brief Hospital Course:
___ y/o woman with ETOH cirrhosis complicated by hepatic 
encephalopathy, biliary strictures s/p multiple ERCPs, CAD s/p 
stent to LAD ___ who was initially admitted to the ICU 
following ERCP with epigastric pain and hypotension .  Course 
notable for decompensated cirrhosis, NSTEMI, new diagnosis of 
portopulmonary hypertension and RV failure, and eventual 
refractory shock and multi-system failure.  Despite aggressive 
care and initiation of epoprostenol the patient developed 
refractory shock and ongoing GI bleeding.  Given her multi 
system failure and the degree of pulmonary hypertension she was 
not felt to be a candidate for liver transplant as she 
clinically worsened.  Many family meetings were held with ICU 
team, pulmonary HTN team, and hepatology team.  The decision was 
made to pursue comfort measures and the patient died with family 
at the bedside.     

# Hypotension: on ___, patient became acutely hypotensive on 
the floor with SBPs in ___ differential included cirrhotic 
decompensation, with potential trigger including infection (? GI 
or urinary source), mild post-ERCP pancreatitis, pain meds, or 
HRS physiology. CXR without PNA. No ascites on exam. The 
decision was made for FICU transfer. She received IVF 
resuscitation. Blood and urine cultures were sent. She was 
broadened from cipro to vanco/zosyn. A CT A/P was obtained which 
had no acute findings. She was initiated on midodrine 5mg TID.

# Pulmonary hypertension/RV dysfunction: Morning of ___, 
patient developed upper substernal discomfort with rising 
troponin consistent with NSTEMI.  She was continued on aspirin; 
no beta-blocker or anticoagulation were started given patient 
had platelet count of 30 and low SBP.  A repeat ECG was checked 
30min later, which was notable for ___ enlargement. Due to 
concern for PE, she was started on a heparin gtt. A CTA was 
negative for PE and the heparin gtt was stopped. A STAT echo was 
obtained which showed "moderately dilated and hypokinetic right 
ventricle with moderate to severe tricuspid regurgitation and 
severe pulmonary hypertension." Given significantly elevated 
pulmonary arterial hypertension, Dr. ___ was consulted and a 
PA catheter was placed which revealed pulmonary hypertension 
felt to be portopulmonary HTN given known liver disease. Due to 
ongoing RV failure, the decision was made to transfer the 
patient to ___ for initiation of epoprostenol. Patient 
was initiated on epoprostenol and dose was slowly uptitrated 
over time with close monitoring of hemodynamics and oxygenation. 
 Patient was also diuresed with IV Lasix in effort to improve 
volume overload and hemodynamics.  

# Hypoxic respiratory failure: following ERCP, patient became 
mildly hypoxic with O2 sats to low ___ felt to be due to 
splinting/atelectasis.  Throughout her course she had worsening 
oxygenation felt to be multifactorial with contribution of 
pulmonary edema/pleural effusion, atelectasis, possible 
underlying pneumonia, and pulmonary HTN.  On ___ she was 
intubated for hypoxemic respiratory failure and increased GI 
bleeding/altered mental status.

#GI bleeding/Melena: Patient had episodes of melena during MICU 
admission in setting of recent ERCP and thrombocytopenia. She 
was treated supportively with transfusions given high risk for 
EGD in setting of hemodynamic instability and hypoxemic 
respiratory failure.  She eventually developed significant 
bleeding from upper airway requiring packing by ENT.  

#Shock: ___ patient developed shock requiring 3 pressors 
felt to be due to mixed physiology with known RV failure, 
ongoing GI bleeding, and likely septic shock with unclear 
source.  She was treated supportively with vasopressors and 
transfusions.  She eventually developed refractory shock and 
acidemia.  As described above given grim prognosis and the fact 
that she was not a transplant candidate the decision was made to 
pursue comfort measures.    

#Thrombocytopenia/coagulopathy due to underlying cirrhosis and 
DIC.  Treated wiith transfusion support.  

# Post-ERCP pancreatitis: Patient originally presented on ___ 
for ERCP; found to have CBD dilation s/p ampullary biopsy. 
Post-procedure she had persistent abdominal pain, mild elevated 
of lipase to 74. She was treated for presumed pancreatitis; kept 
NPO, received IVF, pain control w/IVF dilaudid. She was then 
transferred to FICU in setting of hypotension as above; she was 
kept NPO with pain control PRN. 

# EtOH Cirrhosis: Childs C. On admission patient was noted to be 
decompensated in the setting of jaundice, ___, hypotension. She 
has a known history of hepatic encephalopathy, no history of 
varices on imaging. She was continued on rifaximin and 
lactulose. A RUQ U/S was notable for reversal of flow in her 
pulmonary vein without evidence of clot. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. ClonazePAM 1 mg PO QHS 
2. Bumetanide 0.5 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Septic Shock
DIC
Cirrhosis
Severe Pulmonary Hypertension
 
Discharge Condition:
Expired
 
Discharge Instructions:
N/A
 
Followup Instructions:
___